US07595414B2
In a 200 mL-volume flask equipped with a stirrer, a thermometer and a dropping funnel was placed 9.74 g (250 mmol) of sodium amide, and the flask was purged with argon. Then, 80 mL of toluene was placed in the flask. Subsequently, 25.0 g (249.6 mmol) of 3,3-dimethyl-2-butanone was slowly dropped into the flask, and the resulting mixture was stirred for 15 minutes. Into the flask was further dropped 10.4 g (99.9 mmol) of methyl methoxyacetate, and the mixture was stirred for 30 minutes for carrying out a reaction. After the reaction was complete, 50 mL of water was placed in the flask under cooling with ice. The aqueous portion was taken out, neutralized with acetic acid, and subjected to extraction with ether. The ether extract was washed with water, dried over hydrous sodium sulfate, and filtered. The filtrate was concentrated and distilled under reduced pressure (65° C., 426 Pa) to give 5.90 g (yield: 34%) of 1-methoxy-5,5-dimethyl-2,4-hexanedione as colorless liquid.

reactant | sodium amide | 250 mmol, 9.74 g | [NH2-].[Na+]
reactant | 3,3-dimethyl-2-butanone | 249.6 mmol, 25.0 g | CC(C(C)=O)(C)C | C6H12O
reactant | methyl methoxyacetate | 99.9 mmol, 10.4 g | COCC(=O)OC | C4H8O3
reactant | water | 50 mL | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-methoxy-5,5-dimethyl-2,4-hexanedione | 5.90 g, yield: 34% | COCC(CC(C(C)(C)C)=O)=O | C9H16O3
